US06673804B1
6-Trifluoromethyl-1-(2-trimethylsilyl)ethoxymethyl-pyrimidine-2,4dione
In a similar manner to the procedures described in Reference Example 3, reactions were carried out using 6-trifluoromethylpyrimidine-2,4-dione, instead of pyrimidine-2,4-dione, and using 2-(trimethylsilyl)ethoxymethyl chloride, instead of benzyloxymethyl chloride, to give the title compound (yield 48%) as a colorless oil. 1H-Nuclear magnetic resonance spectrum (270 MHz, CDCl3) δ ppm: 8.84 (1H, br.s), 6.24 (1H, d, J=2 Hz), 5.32 (2H, s), 3.73-3.68 (2H, m), 0.97-0.90 (2H, m), 0.01 (9H, s).

reactant | 6-trifluoromethylpyrimidine-2,4-dione | FC(C1=CC(NC(N1)=O)=O)(F)F | C5H3F3N2O2
reactant | pyrimidine-2,4-dione | N1C(NC(C=C1)=O)=O | C4H4N2O2
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | C[Si](CCOCCl)(C)C | C6H15ClOSi
product | benzyloxymethyl chloride | C(C1=CC=CC=C1)OCCl | C8H9ClO
